US09359367B2
Step 3: (E)-4-(4-(4-fluorophenyl)piperazin-1-yl)-4-methylpent-2-enenitrile
To the stirred solution of 2-(4-(4-fluorophenyl)piperazin-1-yl)-2-methylpropanal (1.0 g, 4 mmol) in 10 ml of dichloromethane was added 2-(triphenylphosphoranylidene)acetonitrile (1.445 g, 4.8 mmol) at 25° C. The reaction was stirred for 2 days at room temperature. After completion of reaction, the solvent was evaporated to give a crude product. The crude product was purified by column chromatography using 10% ethyl acetate in hexane as an eluent to obtain the title compound (0.7 g, 64.1%).

reactant | 2-(4-(4-fluorophenyl)piperazin-1-yl)-2-methylpropanal | 4 mmol, 1.0 g | FC1=CC=C(C=C1)N1CCN(CC1)C(C=O)(C)C | C14H19FN2O
reactant | 2-(triphenylphosphoranylidene)acetonitrile | 4.8 mmol, 1.445 g | C1(=CC=CC=C1)P(=CC#N)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H16NP
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (E)-4-(4-(4-fluorophenyl)piperazin-1-yl)-4-methylpent-2-enenitrile | 0.7 g, 64.1% | FC1=CC=C(C=C1)N1CCN(CC1)C(/C=C/C#N)(C)C | C16H20FN3
